US07700655B2
(1) Methyl 2-methoxy-4-phenylbenzoate
Dichlorobis(triphenylphosphine)palladium (29 mg, 0.04 mmol) was added to a solution of methyl 4-chloro-2-methoxybenzoate (904 mg, 4.5 mmol), phenylboronic acid (500 mg, 4.1 mmol) and cesium carbonate (2.7 g, 8.2 mmol) in N,N-dimethylformamide (15 mL) under argon atmosphere, and the mixture was stirred at 120° C. for 8 hours. After the reaction mixture was cooled to room temperature, it was diluted with ethyl acetate. The ethyl acetate layer was washed successively with water and brine, and dried over anhydrous sodium sulfate. The residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=10:1) to give the title compound (410 mg, 41.2%) as a colourless oil.

reactant | methyl 4-chloro-2-methoxybenzoate | 4.5 mmol, 904 mg | ClC1=CC(=C(C(=O)OC)C=C1)OC | C9H9ClO3
reactant | phenylboronic acid | 4.1 mmol, 500 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cesium carbonate | 8.2 mmol, 2.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Dichlorobis(triphenylphosphine)palladium | 0.04 mmol, 29 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 2-methoxy-4-phenylbenzoate | 410 mg, 41.2% | COC1=C(C(=O)OC)C=CC(=C1)C1=CC=CC=C1 | C15H14O3
